### PR TITLE
Add Erdos 11

### LINKED ISSUE #193: Erdős Problem 11: Every number is of form squarefree + power of 2?
### What is the conjecture

https://www.erdosproblems.com/11

  Is every odd $n$ the sum of a squarefree number and a power of 2?

Status: open

### Prerequisites needed
Should all be there (`Mathlib.Data.Nat.Squarefree`)

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-11

### Choose either option
- [ ] I plan on working on this conjecture
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

### PR DESCRIPTION
**Pull request by zhenningdavidliu**
This PR adds Erdos Problem 11 as per [issue](https://github.com/google-deepmind/formal-conjectures/issues/193). 

It: 
- Adds the formal version of the original statement
- A weaker version
- A modified version

Closes #193

### CODE REVIEW

File: FormalConjectures/ErdosProblems/11.lean [hunk 1]
```diff
@@ -0,0 +1,50 @@
...
+    ∃ k l : ℕ , Squarefree k ∧ n = k + 2^l := by
+  sorry
+
+/--
+Erdős often asked this under the weaker assumption that n
+is not divisible by 4
+.
+-/
+@[category research open, AMS 11]
+theorem erdos_11_i (n : ℕ) (hn : Odd n) (hn_2 : n % 4 ≠ 0):
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/11.lean]:
```suggestion
theorem erdos_11_i (n : ℕ) (hn_2 : n % 4 ≠ 0):
```
Odd n, i.e. not divisible by 2 would already imply not divisible by 4, right? 
So I think the intention here is only to have "not divisible by 4".

File: FormalConjectures/ErdosProblems/11.lean [hunk 2]
```diff
@@ -0,0 +1,50 @@
...
+*Reference:* [erdosproblems.com/11](https://www.erdosproblems.com/11)
+-/
+/--
+Is every odd n the sum of a squarefree number and a power of 2?
+-/
+
+@[category research open, AMS 11]
+theorem erdos_11 (n : ℕ) (hn : Odd n) :
+    ∃ k l : ℕ , Squarefree k ∧ n = k + 2^l := by
+  sorry
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/11.lean]: "Odlyzko has checked this up to 107
 Hercher [[He24b]](javascript:void(0);) has verified this is true for all odd integers up to 250≈1.12×1015"
 
 Let's also add these to solved variants (even if they are only purely computational).
 ```
 @[category research solved, AMS 11]
theorem erdos_11.variants.finite_bound1 (n : ℕ) (hn : Odd n) (h : n < 10^7) 
    ∃ k l : ℕ , Squarefree k ∧ n = k + 2^l := by
  sorry


 @[category research solved, AMS 11]
theorem erdos_11.variants.finite_bound2 (n : ℕ) (hn : Odd n) (h : n < 2^50) 
    ∃ k l : ℕ , Squarefree k ∧ n = k + 2^l := by
  sorry 
 ```

File: FormalConjectures/ErdosProblems/11.lean [hunk 3]
```diff
@@ -0,0 +1,50 @@
...
+is not divisible by 4
+.
+-/
+@[category research open, AMS 11]
+theorem erdos_11_i (n : ℕ) (hn : Odd n) (hn_2 : n % 4 ≠ 0):
+    ∃ k l : ℕ , Squarefree k ∧ n = k + 2^l := by
+  sorry
+
+/--
+Erdős thought that proving this with two powers of 2 is perhaps easy, and could prove that it is true (with a single power of two) for almost all n.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/11.lean]:
```suggestion
Erdős thought that proving this with two powers of 2 is perhaps easy, and could prove that it is true (with a single power of two) for almost all n.
```

Could "and could prove that it is true (with a single power of two) for almost all n." be made into a solved variant?
(Or add a TODO)

**Review by mo271 — COMMENTED** [review]
Thanks, looks great!
Added a few remarks

File: FormalConjectures/ErdosProblems/11.lean (hunk 1 above)
Comment (zhenningdavidliu) [reply FormalConjectures/ErdosProblems/11.lean]: Oh, very good point! Apologies for my oversight.

File: FormalConjectures/ErdosProblems/11.lean (hunk 3 above)
Comment (zhenningdavidliu) [reply FormalConjectures/ErdosProblems/11.lean]: I tried to do a bit of digging into this, but as far as I could tell, it appears that Erdos did not succeed in proving any density related theorems for this problem. I think that this note that was given on [Erdos11](https://www.erdosproblems.com/11l) is perhaps poorly phrased and in fact means ' Erdos thought that proving this with two powers of 2 is perhaps easy, and **also thought** that one could prove that this is true ... ". 

To avoid confusion, I will change the comment slightly.

File: FormalConjectures/ErdosProblems/11.lean (hunk 2 above)
Comment (zhenningdavidliu) [reply FormalConjectures/ErdosProblems/11.lean]: Added now.

File: FormalConjectures/ErdosProblems/11.lean [hunk 4]
```diff
@@ -0,0 +1,66 @@
...
+
+*Reference:* [erdosproblems.com/11](https://www.erdosproblems.com/11)
+-/
+/--
+Is every odd n the sum of a squarefree number and a power of 2?
+-/
+
+@[category research open, AMS 11]
+theorem erdos_11 (n : ℕ) (h_odd : Odd n) :
+    ∃ k l : ℕ , Squarefree k ∧ n = k + 2^l := by
```
Comment (b-mehta) [inline FormalConjectures/ErdosProblems/11.lean]:
```suggestion
    ∃ k l : ℕ, Squarefree k ∧ n = k + 2 ^ l := by
```

File: FormalConjectures/ErdosProblems/11.lean [hunk 5]
```diff
@@ -0,0 +1,66 @@
...
+  sorry
+
+/--
+Erdős often asked this under the weaker assumption that n
+is not divisible by 4
+.
```
Comment (b-mehta) [inline FormalConjectures/ErdosProblems/11.lean]:
```suggestion
is not divisible by 4.
```

File: FormalConjectures/ErdosProblems/11.lean [hunk 6]
```diff
@@ -0,0 +1,66 @@
...
+-/
+@[category research open, AMS 11]
+theorem erdos_11_i (n : ℕ) (hn : n % 4 ≠ 0):
```
Comment (b-mehta) [inline FormalConjectures/ErdosProblems/11.lean]:
```suggestion
theorem erdos_11_i (n : ℕ) (hn : ¬ 4 ∣ n):
```

File: FormalConjectures/ErdosProblems/11.lean (hunk 4 above)
Comment (b-mehta) [reply FormalConjectures/ErdosProblems/11.lean]: (and similarly below)

File: FormalConjectures/ErdosProblems/11.lean (hunk 3 above)
Comment (b-mehta) [reply FormalConjectures/ErdosProblems/11.lean]: In [Er90] (using the website referencing), he writes

> 11. Is it true that if n = 0 (mod 4) then there is a squarefree natural
number theta such that n = 2^k + theta ? I could only prove that almost all
integers n = 0 (mod 4) can be written in the form 2^k + theta.

I cannot find where he proved this though.

In [Er92] he further writes

> Is it true that every n != 0 (mod 4) is the sum of a power of 2 and a
square free number? All I could show (and this is easy} that the density of
the integers n != 0 (mod 4) which are not of a sum of a power of 2 and a
square free number is 0

which agrees with the website's claim.

File: FormalConjectures/ErdosProblems/11.lean [hunk 7]
```diff
@@ -0,0 +1,66 @@
...
+
+Unless required by applicable law or agreed to in writing, software
+distributed under the License is distributed on an "AS IS" BASIS,
+WITHOUT WARRANTIES OR CONDITIONS OF ANY KIND, either express or implied.
+See the License for the specific language governing permissions and
+limitations under the License.
+-/
+
+import FormalConjectures.Util.ProblemImports
+import Mathlib.Data.Nat.Squarefree
```
Comment (smmercuri) [inline FormalConjectures/ErdosProblems/11.lean]: This import can be removed

File: FormalConjectures/ErdosProblems/11.lean [hunk 8]
```diff
@@ -0,0 +1,66 @@
...
+# Erdős Problem 11
+
+*Reference:* [erdosproblems.com/11](https://www.erdosproblems.com/11)
+-/
+/--
+Is every odd n the sum of a squarefree number and a power of 2?
+-/
+
+@[category research open, AMS 11]
+theorem erdos_11 (n : ℕ) (h_odd : Odd n) :
```
Comment (smmercuri) [inline FormalConjectures/ErdosProblems/11.lean]: nit: remove the extra line 

```suggestion
/--
Is every odd n the sum of a squarefree number and a power of 2?
-/
@[category research open, AMS 11]
theorem erdos_11 (n : ℕ) (h_odd : Odd n) :
```

File: FormalConjectures/ErdosProblems/11.lean (hunk 6 above)
Comment (smmercuri) [inline FormalConjectures/ErdosProblems/11.lean]: The naming convention here is to use `.variants.<variant name>`
```suggestion
theorem erdos_11.variants.not_four_dvd (n : ℕ) (hn : n % 4 ≠ 0):
```

File: FormalConjectures/ErdosProblems/11.lean [hunk 9]
```diff
@@ -0,0 +1,66 @@
...
+@[category research open, AMS 11]
+theorem erdos_11_i (n : ℕ) (hn : n % 4 ≠ 0):
+    ∃ k l : ℕ , Squarefree k ∧ n = k + 2^l := by
+  sorry
+
+/--
+Erdős thought that proving this with two powers of 2 is perhaps easy.
+-/
+@[category research open, AMS 11]
+theorem erdos_11_ii (n : ℕ) (h_odd : Odd n):
```
Comment (smmercuri) [inline FormalConjectures/ErdosProblems/11.lean]:
```suggestion
theorem erdos_11.variants.two_pow_two (n : ℕ) (h_odd : Odd n):
```

File: FormalConjectures/ErdosProblems/11.lean [hunk 10]
```diff
@@ -0,0 +1,66 @@
...
+    ∃ k l m : ℕ , Squarefree k ∧ n = k + 2^l + 2^m := by
+  sorry
+
+/--
+Odlyzko has checked this up to  10^7.
```
Comment (smmercuri) [inline FormalConjectures/ErdosProblems/11.lean]:
```suggestion
Odlyzko has checked this up to `10^7`.
```

File: FormalConjectures/ErdosProblems/11.lean [hunk 11]
```diff
@@ -0,0 +1,66 @@
...
+-/
+@[category research solved, AMS 11]
+theorem erdos_11.variants.finite_bound1 (n : ℕ) (h_odd : Odd n) (h : n < 10^7):
+    ∃ k l : ℕ , Squarefree k ∧ n = k + 2^l := by
+  sorry
+
+/--
+Hercher has verified this is true for all odd integers up to 2^50 (approx 1.12*10^15)
```
Comment (smmercuri) [inline FormalConjectures/ErdosProblems/11.lean]:
```suggestion
Hercher has verified this is true for all odd integers up to `2^50` (approx `1.12*10^15`)
```

File: FormalConjectures/ErdosProblems/11.lean (hunk 6 above)
Comment (zhenningdavidliu) [reply FormalConjectures/ErdosProblems/11.lean]: Thanks, happy to accept this. Could you please explain why this form is better for formalisation ?

Comment (b-mehta) [reply FormalConjectures/ErdosProblems/11.lean]: This form is closer to the more commonly used version in mathlib, while not being hard to convert back to the formulation you gave

File: FormalConjectures/ErdosProblems/11.lean (hunk 7 above)
Comment (zhenningdavidliu) [reply FormalConjectures/ErdosProblems/11.lean]: I assume that you only mean the second import as removing the first causes `lake build` to fail?

Comment (smmercuri) [reply FormalConjectures/ErdosProblems/11.lean]: Sorry yeah only `Mathlib.Data.Nat.Squarefree` can be removed

File: FormalConjectures/ErdosProblems/11.lean [hunk 12]
```diff
@@ -0,0 +1,64 @@
...
+
+import FormalConjectures.Util.ProblemImports
+import Mathlib.Data.Nat.Squarefree
+
+/-!
+# Erdős Problem 11
+
+*Reference:* [erdosproblems.com/11](https://www.erdosproblems.com/11)
+-/
+/--
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/11.lean]:
```suggestion
-/

/--
```

File: FormalConjectures/ErdosProblems/11.lean [hunk 13]
```diff
@@ -0,0 +1,64 @@
...
+Is every odd n the sum of a squarefree number and a power of 2?
+-/
+@[category research open, AMS 11]
+theorem erdos_11 (n : ℕ) (h_odd : Odd n) :
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/11.lean]:
```suggestion
theorem erdos_11 (n : ℕ) (hn : Odd n) :
```

File: FormalConjectures/ErdosProblems/11.lean [hunk 14]
```diff
@@ -0,0 +1,64 @@
...
+    ∃ k l : ℕ, Squarefree k ∧ n = k + 2 ^ l := by
+  sorry
+
+/--
+Erdős often asked this under the weaker assumption that n
+is not divisible by 4.
+-/
+@[category research open, AMS 11]
+theorem erdos_11.variants.not_four_dvd (n : ℕ) (hn : n % 4 ≠ 0):
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/11.lean]:
```suggestion
theorem erdos_11.variants.not_four_dvd (n : ℕ) (hn : ¬ 4 ∣ n) :
```
I think this is better as more theorems in mathlib will have been stated in this way

File: FormalConjectures/ErdosProblems/11.lean [hunk 15]
```diff
@@ -0,0 +1,64 @@
...
+    ∃ k l : ℕ , Squarefree k ∧ n = k + 2^l := by
+  sorry
+
+/--
+Erdős thought that proving this with two powers of 2 is perhaps easy.
+-/
+@[category research open, AMS 11]
+theorem erdos_11.variants.two_pow_two (n : ℕ) (h_odd : Odd n):
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/11.lean]:
```suggestion
theorem erdos_11.variants.two_pow_two (n : ℕ) (hn : Odd n) :
```

File: FormalConjectures/ErdosProblems/11.lean [hunk 16]
```diff
@@ -0,0 +1,64 @@
...
+    ∃ k l m : ℕ , Squarefree k ∧ n = k + 2^l + 2^m := by
+  sorry
+
+/--
+Odlyzko has checked this up to `10^7`.
+-/
+@[category research solved, AMS 11]
+theorem erdos_11.variants.finite_bound1 (n : ℕ) (h_odd : Odd n) (h : n < 10^7):
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/11.lean]:
```suggestion
theorem erdos_11.variants.finite_bound1 (n : ℕ) (hn : Odd n) (h : n < 10^7) :
```

File: FormalConjectures/ErdosProblems/11.lean [hunk 17]
```diff
@@ -0,0 +1,64 @@
...
+    ∃ k l : ℕ , Squarefree k ∧ n = k + 2^l := by
+  sorry
+
+/--
+Hercher has verified this is true for all odd integers up to `2^50` (approx `1.12*10^15`)
+-/
+@[category research solved, AMS 11]
+theorem erdos_11.variants.finite_bound2 (n : ℕ) (h_odd : Odd n) (h : n < 2^50):
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/11.lean]:
```suggestion
theorem erdos_11.variants.finite_bound2 (n : ℕ) (hn : Odd n) (h : n < 2^50) :
```

**Review by callesonne — APPROVED** [review]
Thanks for the contribution! Some (mainly formatting) comments. LGTM once they have been addressed and the extra import has been removed!
